US07230020B2
Synthesis of 3-chloro-2-methyl-N-quinolin-6-yl-benzenesulfonamide, STX 932 (KRB01058)
To a solution of 3-chloro-2-methylbenzenesulphonyl chloride (164 mg, 0.728 mmol) in dichloromethane (4 mL) was added pyridine (140 μL, 1.74 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-aminoquinoline (100 mg, 0.694 mmol) was added. The resulting mixture was stirred for 2 h at room temperature, then saturated NaHCO3 solution (10 mL) was added and the mixture was extracted into ethyl acetate (20 mL). The organic: phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a pale pink solid (48 mg, 21%), single spot at Rf 0.71 (ethyl acetate). mp 228.0-228.5° C., HPLC purity 99+% (tR 2.43 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 8.83 (1H, dd, J=4.2, 1.7 Hz), 7.98 (3H, m), 7.54 (1H, d, J=7.9 Hz), 7.48 (1H, d, J=2.7 Hz), 7.39-7.32 (2H, m), 7.20 (1H, t, J=7.9 Hz), 7.05 (1H, s, N—H), 2.75 (3H, s). LCMS: 331.16 (M−). FAB-MS (MH+, C16H13CIN2O2S): calcd 333.0464, found 333.0461.

reactant | 3-chloro-2-methylbenzenesulphonyl chloride | 0.728 mmol, 164 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | pyridine | 1.74 mmol, 140 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-aminoquinoline | 0.694 mmol, 100 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-chloro-2-methyl-N-quinolin-6-yl-benzenesulfonamide | 48 mg, 21% | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1C=C2C=CC=NC2=CC1)C | C16H13ClN2O2S
